US05463077
By working in accordance with Use Example 4, starting from 0.8 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride and 0.34 g of 3-thienylacetic acid, 0.53 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(3-thienyl)acetyl]-perhydroisoindol-4-ol is obtained in the form of white crystals which melt with decomposition at 106° C.

reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 0.8 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
reactant | 3-thienylacetic acid | 0.34 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
product | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(3-thienyl)acetyl]-perhydroisoindol-4-ol | 0.53 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(CC1=CSC=C1)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C33H33NO3S
